US05972961
Sodium hydride (1.3 g, 27.9 mmol) was added to a solution of 3-amino-4-(5-chloro-2-hydroxyphenyl)-6-(trifluoromethyl)quinolin-2(1H)-one (4.7 g, 13.3 mmol) and dry DMF at ambient temperature under nitrogen. Neat chloromethyl methyl ether was added and the reaction was stirred overnight. The reaction was then diluted with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. Chromatography on silica gel was used to isolated a mixture of O,N- and O,O-bis methoxymethyl quinolones (3.24 g) from remaining starting material. The bis methoxymethyl mixture was dissolved in dry DMF and sodium hydride(375.4 mg, 8 mmol) was added at ambient temperature under nitrogen. Dimethyl sulfate(0.76 ml, 8.0 mmol) was added and the reaction was stirred for 1 hour. The reaction mixture was then diluted with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. The crude material was taken up in dry methylene chloride and boron tribromide(1 M in methylene chloride, 2.1 eq) was added at ambient temperature under nitrogen. After 6 hours, the reaction mixture was quenched with saturated sodium bicarbonate and extracted with methylene chloride. The organic layer was combined, dried over magnesium sulfate, and concentrated. Chromatography on silica gel afforded 4-(5-chloro-2-hydroxyphenyl)-3-(methylamino)-6-(trifluoromethyl)quinolin-2(1H)-one (1.03 g, 21%).

reactant | Sodium hydride | 27.9 mmol, 1.3 g | [H-].[Na+]
reactant | 3-amino-4-(5-chloro-2-hydroxyphenyl)-6-(trifluoromethyl)quinolin-2(1H)-one | 13.3 mmol, 4.7 g | NC=1C(NC2=CC=C(C=C2C1C1=C(C=CC(=C1)Cl)O)C(F)(F)F)=O | C16H10ClF3N2O2
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
reactant | sodium hydride | 8 mmol, 375.4 mg | [H-].[Na+]
reactant | Dimethyl sulfate | 8.0 mmol, 0.76 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | boron tribromide | 1 M, 2.1 eq | B(Br)(Br)Br | BBr3
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-chloro-2-hydroxyphenyl)-3-(methylamino)-6-(trifluoromethyl)quinolin-2(1H)-one | 1.03 g, 21% | ClC=1C=CC(=C(C1)C1=C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)NC)O | C17H12ClF3N2O2
